US08124636B2
To a solution of commercially available (S)-2-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (5 g, 0.021 mol) dissolved in DCM (150 mL) was added BH3-DMS (3.3 mL 0.043 mol) at 0° C., dropwise over the course of 45 min with stirring. The reaction mixture was stirred for 5 h at room temperature. The reaction mixture was treated with DCM (150 mL) and water (50 mL). The organic layer was isolated, washed with saturated NaHCO3 solution (2×50 mL) followed by brine (2×50 mL), dried (anhydrous Na2SO4), and concentrated using rotary evaporator to give desired (rac)-2-hydroxymethyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester yellowish brown liquid (4.0 g, 86%).

reactant | (S)-2-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.021 mol, 5 g | C(C)(C)(C)OC(=O)N1[C@@](CCC1)(C(=O)O)C | C11H19NO4
reactant | water | 50 mL | O | H2O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | (rac)-2-hydroxymethyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)(C)CO | C11H21NO3
